data/mechanisms/records/IMS8-EQ8.14a.json
{"mechanism_id": "IMS8-EQ8.14a", "species": [{"species_id": "ethyl_methyleneoxocarbenium", "mapped_smiles": "[CH2:1]([1H:4])[CH2:5][O+:8]=[CH2:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:1]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_formaldehyde", "mapped_smiles": "[1H:4][O+:8]=[CH2:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["ethyl_methyleneoxocarbenium"]}, {"state_id": "state_products", "species_ids": ["ethylene_neutral", "protonated_formaldehyde"]}], "steps": [{"step_id": "step_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [1, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 8]}, "target": {"type": "bond", "atom_maps": [4, 8]}, "electron_count": 2}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 148, "equation": "8.14", "section": "8.x Proton-bound complexes / hydrogen rearrangement (rH) in even-electron ions"}, "confidence": 0.8, "curator_note": "EXPERIMENTAL CONTEXT: metastable-ion (MI) decomposition of the mass-selected even-electron ion C2H5O+=CH2 (m/z 59). The book (eq 8.14) DRAWS a proton-bound complex [C2H4...H...O=CH2] as the intermediate; it is a non-covalent complex and is NOT separately encoded as a discrete mapped species (partial bonds are not RDKit-representable) - this record encodes the net rH reaction precursor->products. The MI spectrum shows HO-CH2+ as a major peak (this channel). 0 electron-pushing arcs drawn (only 'rH' reaction arrows). Equation 8.14, favored (upper) branch. The even-electron oxocarbenium ion C2H5-O+=CH2 (ethyl methyleneoxocarbenium, m/z 59) rearranges by rH (labelled 'rH' on the reaction arrow) to a proton-bound complex [C2H4...H...O=CH2]+ (drawn as an explicit intermediate on the page) that dissociates to neutral ethylene C2H4 + protonated formaldehyde HO+=CH2 (the hydroxymethyl cation, m/z 31). The text states this HO-CH2+ 'represents a major peak' in the MI spectrum of C2H5O=CH2+ and that no C2H5+ is seen. INTERMEDIATE OMITTED: the drawn proton-bound complex is a non-covalent ion-neutral complex, not cleanly representable as a covalent SMILES with defined bond orders, so this record encodes the NET rearrangement (precursor -> C2H4 + HO+=CH2) as a single formal-arrow step; this matches the granularity of MOD rule IMS_8_14_2. Book draws 0 electron-pushing arcs (a reaction-level scheme using reaction arrows labelled rH); both encoded moves are reconstructed for electron balance (not drawn on the page): move <1> routes the C1-H4 sigma pair (a beta H of the ethyl group) into the forming C1=C5 pi bond of ethylene, move <2> routes the C5-O8 sigma pair into the new O8-H4 bond of protonated formaldehyde. A 1,4-hydrogen shift (H-C1-C5-O8) through a 4-membered transfer array; closed-shell throughout (no radicals). The reaction is drawn as an equilibrium (reversible=true)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "metastable-ion (MI) decomposition via a proton-bound intermediate", "electron_energy_ev": null, "precursor_mz": 59.0486, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_HOCH2", "species_id": "protonated_formaldehyde", "step_id": "step_hydrogen_rearrangement", "observed_mz": 31.0173, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
